US09233985B2
A stirred mixture of (3R,4S)-3-acetamido-N-tert-butyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-3-carboxamide hydrochloride (226 mg, 0.524 mmol) and Et3N (0.110 mL, 0.786 mmol) in methylene chloride (2.5 mL) was treated with a solution of tert-butyl 7-chloro-3-formyl-3,4-dihydroisoquinoline-2(1 H)-carboxylate (155 mg, 0.524 mmol) in methylene chloride (2.5 mL). After stirring for 20 min, sodium triacetoxyborohydride (233 mg, 1.10 mmol) was added and stirring was continued for 1 h. The resulting mixture was carefully quenched with saturated aqueous NaHCO3 (5 mL), diluted with saturated aqueous sodium chloride (15 mL) and extracted with methylene chloride (4×15 mL). The combined organic phase was dried over Na2SO4 and concentrated. Purification by silica gel chromatography (40 g column, 2-4% MeOH in ethyl acetate) gave tert-butyl 3-({(3R,4S)-3-acetamido-3-(tert-butylcarbamoyl)-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidin-1-yl}methyl)-7-chloro-3,4-dihydroisoquinoline-2(1 H)-carboxylate (296 mg, 84%, mixture of diastereomers) as a clear gum. LC-MS gives ESI+ MS found for C35H56BClN4O6 m/z 675.4 (M+H).

reactant | (3R,4S)-3-acetamido-N-tert-butyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidine-3-carboxamide hydrochloride | 0.524 mmol, 226 mg | Cl.C(C)(=O)N[C@]1(CNC[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)C(=O)NC(C)(C)C
reactant | Et3N | 0.786 mmol, 0.110 mL | CCN(CC)CC | C6H15N
reactant | tert-butyl 7-chloro-3-formyl-3,4-dihydroisoquinoline-2(1 H)-carboxylate | 0.524 mmol, 155 mg | ClC1=CC=C2CC(N(CC2=C1)C(=O)OC(C)(C)C)C=O | C15H18ClNO3
reactant | sodium triacetoxyborohydride | 1.10 mmol, 233 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-({(3R,4S)-3-acetamido-3-(tert-butylcarbamoyl)-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidin-1-yl}methyl)-7-chloro-3,4-dihydroisoquinoline-2(1 H)-carboxylate | 296 mg, 84% | C(C)(=O)N[C@]1(CN(C[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)CC1N(CC2=CC(=CC=C2C1)Cl)C(=O)OC(C)(C)C)C(NC(C)(C)C)=O | C35H56BClN4O6
